US07105554B2
5-[[3-(Phenylmethoxy)-4-(2-phenylethoxy)phenyl]methylene]-4-oxo-2-thioxo-3-thiazolidineacetamide
N-methylmorpholine (0.17 mL, 1.58 mmol, 4 eq) was added to a solution of 5-[[3-(phenylmethoxy)-4-(2-phenylethoxy)phenyl]methylene]-4-oxo-2-thioxo-3-thiazolidineacetic acid (200 mg, 0.40 mmol, 1 eq), 1-hydroxy-7-azabenzotriazole (108 mg, 0.79 mmol, 2 eq) and ammonium chloride (42 mg, 0.79 mmol, 2 eq) in N,N-dimethylformamide (5 mL). To this mixture was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (152 mg, 0.79 mmol, 2 eq) and the reaction mixture was stirred for 48 h. It was diluted with ethyl acetate (50 mL), and the organic solution washed with 1M HCl, (3×100 mL), then water (100 mL), dried over sodium sulfate and concentrated in vacuo. A yellow powder precipitated from the concentrate which was collected by filtration, washed with ethyl acetate and petroleum ether and dried to give the product (185 mg, 93%) mp 212–214° C.: 1H NMR (d6 DMSO) 7.76 (s, 1H, C═C— 7.72 (broad s, 2H, exchanges with D2O, NH2), 5.16 (s, 2H, OCH2Ph), 4.60 (s, 2H, CH2CO2H), 4.30 (t, 2H, J 6.4 Hz, OCH2CH2), 3.07 (t, 2H, J 6.4 Hz, OCH2CH2).

reactant | N-methylmorpholine | 1.58 mmol, 0.17 mL, 4 eq | CN1CCOCC1 | C5H11NO
reactant | 5-[[3-(phenylmethoxy)-4-(2-phenylethoxy)phenyl]methylene]-4-oxo-2-thioxo-3-thiazolidineacetic acid | 0.40 mmol, 200 mg, 1 eq | C1(=CC=CC=C1)COC=1C=C(C=CC1OCCC1=CC=CC=C1)C=C1C(N(C(S1)=S)CC(=O)O)=O | C27H23NO5S2
reactant | 1-hydroxy-7-azabenzotriazole | 0.79 mmol, 108 mg, 2 eq | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | ammonium chloride | 0.79 mmol, 42 mg, 2 eq | [Cl-].[NH4+]
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.79 mmol, 152 mg, 2 eq | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5-[[3-(Phenylmethoxy)-4-(2-phenylethoxy)phenyl]methylene]-4-oxo-2-thioxo-3-thiazolidineacetamide | 185 mg, 93% | C1(=CC=CC=C1)COC=1C=C(C=CC1OCCC1=CC=CC=C1)C=C1C(N(C(S1)=S)CC(=O)N)=O | C27H24N2O4S2
